US05128358
3-(bicyclo-[2.2.2]oct-2-yloxy)-4-Methoxybenzaldehyde
Bicyclo[2.2.2]-2-octanol (5.00 g, 40 mmol), isovanillin (6.09 g, 40 mmol) and triphenylphosphine (13.1 g, 50 mmol) are dissolved in dry tetrahydrofuran. To this reaction mixture is added dropwise diethylazodicarboxylate (8.71 g, 50 mmol). The reaction is stirred for 1 hour at room temperature and is refluxed for 80 hours. The reaction mixture was cooled and concentrated in vacuo and the residue is mashed 3×150 ml of ether to remove the desired material from the triphenylphosphine oxide. The combined ethereal layers are washed with 2×100 ml H2O, 2×100 ml 2N NaOH solution, 2×100 ml H2O and 2×100 ml brine. The organics are dried, filtered and concentrated in vacuo. The compound is purified by flash silica gel (32-80 mesh) chromatography with 20% ethyl acetate/hexane. The appropriate fractions are concentrated in vacuo to yield 3.32 g (32%) of product as a viscous oil.

reactant | isovanillin | 40 mmol, 6.09 g | O=CC1=CC(O)=C(OC)C=C1 | C8H8O3
reactant | triphenylphosphine | 50 mmol, 13.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 50 mmol, 8.71 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(bicyclo-[2.2.2]oct-2-yloxy)-4-Methoxybenzaldehyde | 3.32 g, 32% | C12C(CC(CC1)CC2)OC=2C=C(C=O)C=CC2OC | C16H20O3
